US05686442
Under the argon atmosphere, 4-methylpiperazine (2.00 g, 20.0 mmole) and potassium carbonate (3.41 g, 24.7 mole ) were added to a solution of 4-cyanobenzyl bromide (3.20 g, 16.3 mole) in tetrahydrofuran (30 ml). After stirring at room temperature for 18 hours, the mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated aqueous saline, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 4(4-methyl-1-piperazinylmethyl)benzonitrile as a colorless crystalline powder (1.49 g, 42.4%).

reactant | 4-methylpiperazine | 20.0 mmole, 2.00 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 24.7 mole, 3.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyanobenzyl bromide | 16.3 mole, 3.20 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4(4-methyl-1-piperazinylmethyl)benzonitrile | 1.49 g, 42.4% | CN1CCN(CC1)CC1=CC=C(C#N)C=C1 | C13H17N3
